US07662825B2
a) N-(5-Chloro-3-methoxy-2-pyrazinyl)-3-fluorobenzenesulphonamide
By the method outlined in Example 1 (reaction performed at room temperature) using 5-chloro-3-methoxy-2-pyrazinamine (0.798 g) and 3-fluorobenzenesulphonyl chloride (1.17 g). Yield 0.64 g.

reactant | 5-chloro-3-methoxy-2-pyrazinamine | 0.798 g | ClC=1N=C(C(=NC1)N)OC | C5H6ClN3O
reactant | 3-fluorobenzenesulphonyl chloride | 1.17 g | FC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClFO2S
product | N-(5-Chloro-3-methoxy-2-pyrazinyl)-3-fluorobenzenesulphonamide | ClC=1N=C(C(=NC1)NS(=O)(=O)C1=CC(=CC=C1)F)OC | C11H9ClFN3O3S
